US07872031B2
A solution of tert-butyl 4,5,7,8-tetrahydrofuro[3,2-d]azepine-6-carboxylate (0.21 mmol) in chloroform (0.5 mL) and acetic acid (0.5 mL) is treated with N-bromosuccinimide (0.21 mmol) at RT. After 1 hour, the reaction is poured over saturated aqueous NaHCO3, and extracted with ethyl acetate (2×5 mL). The organic layers are washed with brine, dried, and purified by silica chromatography (20% ethyl acetate/hexanes) to give tert-butyl 2-bromo-4,5,7,8-tetrahydrofuro[3,2-d]azepine-6-carboxylate.

reactant | tert-butyl 4,5,7,8-tetrahydrofuro[3,2-d]azepine-6-carboxylate | 0.21 mmol | O1C=CC=2CCN(CCC21)C(=O)OC(C)(C)C | C13H19NO3
reactant | N-bromosuccinimide | 0.21 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | tert-butyl 2-bromo-4,5,7,8-tetrahydrofuro[3,2-d]azepine-6-carboxylate | BrC1=CC=2CCN(CCC2O1)C(=O)OC(C)(C)C | C13H18BrNO3
